US07842688B2
e) Ethyl 2-oxo-1,2,3,4-tetrahydroquinoline-7-carboxylate
The solution of 2.80 g of ethyl 4-(2-methoxycarbonylvinyl)-3-nitrobenzoic acid in 20 ml of glacial acetic acid is hydrogenated in the presence of 0.288 g of 10% Pd/C at room temperature over 16 hours. The reaction mixture is stirred at 70° C. over 1 hour and subsequently concentrated by evaporation to dryness. The residue is admixed with 250 ml of 1M sodium hydrogencarbonate and extracted with ethyl acetate (2×250 ml). The organic phases are washed with water (250 ml), dried over sodium sulphate, filtered and concentrated by evaporation. The title compound is obtained as a white solid from the residue by means of crystallization (ethyl acetate-hexane). Rf=0.24 (1:1 EtOAc-heptane).

reactant | ethyl 4-(2-methoxycarbonylvinyl)-3-nitrobenzoic acid | 2.80 g | C(C)C1=C(C(=O)O)C=CC(=C1[N+](=O)[O-])C=CC(=O)OC | C13H13NO6
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
catalyst | Pd/C | 0.288 g | [Pd] | Pd
product | Ethyl 2-oxo-1,2,3,4-tetrahydroquinoline-7-carboxylate | O=C1NC2=CC(=CC=C2CC1)C(=O)OCC | C12H13NO3
